US07659268B2
A solution of 6-aminonicotinic acid methyl ester (1.1 g, 7.2 mmol) and phthalic anhydride (1.2 g, 7.9 mmol) in anhydrous toluene was heated at reflux overnight in a Dean-Stark apparatus until no more water was collected. The reaction mixture was concentrated under vacuum. The residue was dissolved in ethyl acetate (50 mL) and was washed with brine and water. The organic layer was dried over anhydrous Na2SO4 and concentrated under vacuum to give 6-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-nicotinic acid methyl ester (1.2 g, 60%), which was directly used in the next step without further purification. 1H NMR (300 MHz, d-DMSO) δ 9.12 (d, J=1.5 Hz, 1H), 8.52 (dd, J=2.1, 8.4 Hz, 1H), 8.03-7.92 (m, 4H), 7.72 (d, J=7.8 Hz, 1H), 3.91 (s, 3H).

reactant | 6-aminonicotinic acid methyl ester | 7.2 mmol, 1.1 g | COC(C1=CN=C(C=C1)N)=O | C7H8N2O2
reactant | phthalic anhydride | 7.9 mmol, 1.2 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-nicotinic acid methyl ester | 1.2 g, 60% | COC(C1=CN=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)=O | C15H10N2O4
